US07777047B2
ethyl ({7-[methyl(pyridin-2-ylsulfonyl)amino]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl}oxy)acetate
To a solution of N-{5-hydroxy-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide (800 mg) in N,N-dimethylformamide (10 mL) were added potassium carbonate (264 mg) and ethyl bromoacetate (0.18 mL), and the mixture was stirred at 50° C. for 6 hr. The mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=85:15-0:1) to give the title compound (724 mg, yield 76%) as a pale-yellow powder.

reactant | N-{5-hydroxy-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide | 800 mg | OC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CN1CCSCC1 | C22H25N5O3S3
reactant | potassium carbonate | 264 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.18 mL | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl ({7-[methyl(pyridin-2-ylsulfonyl)amino]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl}oxy)acetate | 724 mg, yield 76% | CN(C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCSCC1)OCC(=O)OCC)S(=O)(=O)C1=NC=CC=C1 | C26H31N5O5S3
